US06492373B2
A mixture of 1-ethyl-6,8-difluoro-4-oxo-7-(1-piperazinyl)-1,4-dihydroquinoline-3-carboxylic acid ( 0.5 1.48 mmole) [J. B. Cornett et. al., Annu. Rep. Med. Chem., 21, 138 (1986).], sodium bicarbonate (0.12 g, 1.48 mmole), potassium iodide (0.08 g, 0.5 mmole), and 2-bromoacetophenone (0.37 g, 1.86 mmole) in DMF (40 ml) was stirred at room temperature for 3 hr, then poured into ice-water (50 ml), and extracted with CH2Cl2 (50 ml×3). The extract was washed with water, dried over Na2SO4, and evaporated. The residual solid was crystallized from ethanol-chloroform(5:1) to give 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(4-phenacyl-1-piperazinyl)-quinoline-3-carboxylic acid (0.49 g, 73%). Mp: 167° C. (dec). 1H NMR (DMSO-d6) δ1.44 (t, 3H, J=7.0), 2.70 and 3.32 (two m, 8H), 3.97 (s, 2H), 4.59 (q, 2H, J=7.0), 7.54 and 8.02 (m, 5H), 7.85 (d, 1H, J=13.6), 8.92 (s, 1H), 14.95 (br s, 1H). Anal. Calcd. for C24H23F2N3O4•0.5 H2O: C, 62.06; H, 5.21; N, 9.05. Found: C, 62.18; H, 5.09; N, 9.06.

reactant | 1-ethyl-6,8-difluoro-4-oxo-7-(1-piperazinyl)-1,4-dihydroquinoline-3-carboxylic acid | 1.48 mmole | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C16H17F2N3O3
reactant | sodium bicarbonate | 1.48 mmole, 0.12 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.5 mmole, 0.08 g | [I-].[K+]
reactant | 2-bromoacetophenone | 1.86 mmole, 0.37 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(4-phenacyl-1-piperazinyl)-quinoline-3-carboxylic acid | 0.49 g, 73% | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)CC(=O)C1=CC=CC=C1)F)=O)C(=O)O | C24H23F2N3O4
